** sch_path: /foss/designs/CHIP-PLL/charge_pump/NEW_500n_tran_tb.sch
**.subckt NEW_500n_tran_tb
Vvp vp 0 {Vp}
C1 vout 0 5p
Vup2 up 0 PULSE(1.2 0 5u 10p 10p 5u 20u)
Vdn2 dn 0 PULSE(0 1.2 15u 10p 10p 5u 20u)
x1 vp up vout dn 0 NEW_500n_cp_cell
XM1 vout rst 0 0 sg13_lv_nmos w=2.5u l=0.15u ng=1
Vrst rst 0 PULSE(0 1.2 0 1n 1n 5u 1)
**** begin user architecture code
 .lib cornerMOSlv.lib mos_ss
.include /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/resistors_mod.lib



.temp -25
.param Vp=1.08
.param rsh_rhigh=1000
.control

op
tran 10n 300u
save all
wrdata cp_test.txt v(vout) v(x1.biasn) v(x1.biasp) i(v.x1.Viup) i(v.x1.Vidn)
write cp_test.raw

set filetype=ascii

set appendwrite
.endc


**** end user architecture code
**.ends

* expanding   symbol:  /foss/designs/CHIP-PLL/charge_pump/NEW_500n_cp_cell.sym # of pins=5
** sym_path: /foss/designs/CHIP-PLL/charge_pump/NEW_500n_cp_cell.sym
** sch_path: /foss/designs/CHIP-PLL/charge_pump/NEW_500n_cp_cell.sch
.subckt NEW_500n_cp_cell vp UP vout DN gd
*.iopin UP
*.iopin DN
*.iopin gd
*.iopin vp
*.opin vout
XM15 net13 biasn net4 gd sg13_lv_nmos w=1.6u l=0.6u ng=1
XM16 net4 net1 gd gd sg13_lv_nmos w=1.6u l=0.6u ng=1
XM1 net15 biasn net10 gd sg13_lv_nmos w=1.6u l=0.6u ng=1
XM6 VE biasn net7 gd sg13_lv_nmos w=1.6u l=0.6u ng=1
XM8 net7 net1 gd gd sg13_lv_nmos w=1.6u l=0.6u ng=1
XM9 net1 biasn net2 gd sg13_lv_nmos w=1.6u l=0.6u ng=1
XM10 net2 net1 gd gd sg13_lv_nmos w=1.6u l=0.6u ng=1
Vprad net9 net1 0
Vprad1 net10 VE 0
Vidn VF net13 0
Xq net15 biasp net8 vp sg13_lv_pmos w=1.6u l=0.6u ng=1
XM7 VH biasp net3 vp sg13_lv_pmos w=1.6u l=0.6u ng=1 m=3
XM11 net5 net15 vp vp sg13_lv_pmos w=1.6u l=0.6u ng=1 m=3
XM2 net8 net15 vp vp sg13_lv_pmos w=5.1u l=0.6u ng=1
XM17 vout UP VH vp sg13_lv_pmos w=1u l=0.8u ng=1 m=3
XM18 vout DN VF gd sg13_lv_nmos w=1u l=0.8u ng=1
x1 vp gd biasn vbias
Viup net5 net3 0
XM3 net9 net6 vp vp sg13_lv_pmos w=1u l=0.6u ng=1
x2 vp net6 gd curr_source
x3 vp gd biasp vbias_p
.ends


* expanding   symbol:  /foss/designs/CHIP-PLL/charge_pump/vbias.sym # of pins=3
** sym_path: /foss/designs/CHIP-PLL/charge_pump/vbias.sym
** sch_path: /foss/designs/CHIP-PLL/charge_pump/vbias.sch
.subckt vbias vp gd vbias
*.iopin vp
*.iopin gd
*.opin vbias
XM16 net2 net2 0 gd sg13_lv_nmos w=1.6u l=0.6u ng=1
XM1 vbias net1 net2 gd sg13_lv_nmos w=1.6u l=0.6u ng=1
R1 net1 vbias 500
XM5 iref iref vp vp sg13_lv_pmos w=1.25u l=0.6u ng=1
XM6 net3 iref vp vp sg13_lv_pmos w=1u l=0.6u ng=1
XM7 iref net3 net4 gd sg13_lv_nmos w=1u l=0.6u ng=1
XM8 net3 net3 gd gd sg13_lv_nmos w=1.25u l=0.6u ng=1
R3 net4 gd 500
XM10 net1 iref vp vp sg13_lv_pmos w=1.6u l=0.6u ng=1
.ends


* expanding   symbol:  /foss/designs/CHIP-PLL/charge_pump/curr_source.sym # of pins=3
** sym_path: /foss/designs/CHIP-PLL/charge_pump/curr_source.sym
** sch_path: /foss/designs/CHIP-PLL/charge_pump/curr_source.sch
.subckt curr_source vp iref gd
*.iopin vp
*.iopin gd
*.opin iref
XM4 iref iref vp vp sg13_lv_pmos w=2u l=0.6u ng=1
XM5 net2 iref vp vp sg13_lv_pmos w=3u l=0.6u ng=1
XM6 iref net2 net1 gd sg13_lv_nmos w=3u l=0.6u ng=1
XM7 net2 net2 gd gd sg13_lv_nmos w=2u l=0.6u ng=1
XR2 net1 gd sub! rhigh w=0.5e-6 l=36e-6 m=1 b=0
.ends


* expanding   symbol:  /foss/designs/CHIP-PLL/charge_pump/vbias_p.sym # of pins=3
** sym_path: /foss/designs/CHIP-PLL/charge_pump/vbias_p.sym
** sch_path: /foss/designs/CHIP-PLL/charge_pump/vbias_p.sch
.subckt vbias_p vp gd vbias
*.iopin vp
*.iopin gd
*.opin vbias
XM16 net2 net2 0 gd sg13_lv_nmos w=1.6u l=0.6u ng=1
XM1 vbias net1 net2 gd sg13_lv_nmos w=1.6u l=0.6u ng=1
R1 net1 vbias 500
XM5 iref iref vp vp sg13_lv_pmos w=1.4u l=0.6u ng=1
XM6 net3 iref vp vp sg13_lv_pmos w=1u l=0.6u ng=1
XM7 iref net3 net4 gd sg13_lv_nmos w=1u l=0.6u ng=1
XM8 net3 net3 gd gd sg13_lv_nmos w=1.4u l=0.6u ng=1
R3 net4 gd 500
XM10 net1 iref vp vp sg13_lv_pmos w=1.6u l=0.6u ng=1
.ends

.end
